US07968542B2
5-{1-[5-(4-Trifluoromethylphenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid methyl-2-picolylamide
Synthesis was carried out in the same manner as in Synthetic Example 7 by using 2-(4-trifluoromethylphenyl)-3-hydroxy-4-methylcarbonylthiophene and 5-hydrazinocarbonylthiophene-2-carboxylic acid methyl-2-picolylamide prepared in Reference Synthetic Example 10.

reactant | 2-(4-trifluoromethylphenyl)-3-hydroxy-4-methylcarbonylthiophene | FC(C1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C)(F)F | C13H9F3O2S
reactant | 5-hydrazinocarbonylthiophene-2-carboxylic acid methyl-2-picolylamide | CN(C(=O)C=1SC(=CC1)C(=O)NN)CC1=NC=CC=C1 | C13H14N4O2S
product | 5-{1-[5-(4-Trifluoromethylphenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid methyl-2-picolylamide | CN(C(=O)C=1SC(=CC1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC=C(C=C1)C(F)(F)F)CC1=NC=CC=C1 | C26H21F3N4O3S2
